US07288273B1
To a solution of methyl-3,4,5-trihydroxybenzoate (10.0 g, 54.3 mmol) and amberlyst (0.2 g) in 40 mL of benzene was added triethylorthoformate (32 mL, 270 mmol). The reaction mixture heated to reflux under Ar for 18 h. The reaction mixture was then filtered while hot and the filtrate was concentrated in vacuo. To the resulting oil was added 20 mL of acetone, benzyl bromide (38.7 mL, 326 mmol), and potassium carbonate (oven dried, 22.4 g, 163 mmol). The reaction mixture was heated to reflux under Ar for 20 h. This mixture was cooled, treated with triethylamine (37.3 mL, 272 mmol) and extracted with EtOAc. The organic layer washed sequentially with 10% H2SO4, H2O, and brine, and dried over Na2SO4. The solvents were removed in vacuo. To the remaining oil was added 20 mL of MeOH and TsOHH2O (100 mg, 0.5 mmol). This solution was stirred at rt under Ar for 20 h. The reaction mixture was cooled, concentrated in vacuo and extracted with EtOAc. The organic layer washed sequentially with NaHCO3, H2O, and brine and dried over Na2SO4. After filtration and concentration, the product was purified by flash chromatography using hexane followed by 25% EtOAc in hexane as eluent to yield 10 g (71%) of methyl 3-benzyloxy-4,5-dihydroxybenzoate.

reactant | methyl-3,4,5-trihydroxybenzoate | 54.3 mmol, 10.0 g | COC(C1=CC(=C(C(=C1)O)O)O)=O | C8H8O5
reactant | triethylorthoformate | 270 mmol, 32 mL | C(C)OC(OCC)OCC | C7H16O3
reactant | benzyl bromide | 326 mmol, 38.7 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 163 mmol, 22.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | triethylamine | 272 mmol, 37.3 mL | C(C)N(CC)CC | C6H15N
solvent | benzene | 40 mL | C1=CC=CC=C1 | C6H6
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | methyl 3-benzyloxy-4,5-dihydroxybenzoate | 10 g, 71% | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=C(C1O)O | C15H14O5
